US08431575B2
To a solution of (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-4-difluoromethyl-piperidine-1-carboxylic acid tert-butyl ester (0.32 mmol, 0.18 g) in DCM (0.75 mL) was added 4 N HCl in dioxane (0.75 mL). The solution was stirred for 1 hour. The solvents were removed with reduced pressure and the salt was triturated with diethyl ether and filtered to give (±)-trans-3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-difluoromethyl-piperidin-3-yloxy)-pyridazine dihydrochloride (0.14 g).

reactant | (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-4-difluoromethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.32 mmol, 0.18 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C(F)F)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C31H43F2N3O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 0.75 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.75 mL | O1CCOCC1 | C4H8O2
product | (±)-trans-3-butyl-4-(4-cyclohexyloxy-phenyl)-6-(4-difluoromethyl-piperidin-3-yloxy)-pyridazine dihydrochloride | 0.14 g | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)O[C@@H]1CNCC[C@H]1C(F)F | InChI=1S/C26H35F2N3O2.2ClH/c1-2-3-9-23-22(18-10-12-20(13-11-18)32-19-7-5-4-6-8-19)16-25(31-30-23)33-24-17-29-15-14-21(24)26(27)28;;/h10-13,16,19,21,24,26,29H,2-9,14-15,17H2,1H3;2*1H/t21-,24-;;/m1../s1
